US05891889
Step C: Preparation of Methyl N-tert-butoxycarbonyl-4-[3-(benzyloxycarbonylaminomethyl)benzyl]piperidine-4-carboxylate
A mixture of methyl N-tert-butoxycarbonyl-4-(3-aminomethylbenzyl)piperidine-4-carboxylate (1.67 mmol), benzyl chloroformate (0.48 mL, 3.36 mmol), and diisopropylethylamine (1 mL, 5.74 mmol) in dichloromethane was stirred at room temp. The resultant solution was diluted with dichloromethane, washed with aqueous sodium bicarbonate, and then brine. The organic extract was dried over anhydrous magnesium sulfate, filtered, and concentrated under vacuum. The residue was subjected to column chromatography on silica gel eluting with 40% ethyl acetate in hexane. Collection and concentration of appropriate fractions provided the title compound as clear colorless gum.

reactant | methyl N-tert-butoxycarbonyl-4-(3-aminomethylbenzyl)piperidine-4-carboxylate | 1.67 mmol | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)OC)CC1=CC(=CC=C1)CN | C20H30N2O4
reactant | benzyl chloroformate | 3.36 mmol, 0.48 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | diisopropylethylamine | 5.74 mmol, 1 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | ClCCl | CH2Cl2
product | Methyl N-tert-butoxycarbonyl-4-[3-(benzyloxycarbonylaminomethyl)benzyl]piperidine-4-carboxylate | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)OC)CC1=CC(=CC=C1)CNC(=O)OCC1=CC=CC=C1 | C28H36N2O6
